Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
"I got in a fight with my husband because he's
cheating on me.  He then called ___ and said I was suicidal to
get back at me."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman without any prior 
psychiatric
history who was BIBA from her home after her husband called ___
and reported that she was trying to drown herself in the 
bathtub.
Psychiatry was consulted for a safety assessment.

The patient reports that over the last few months she has
suspected that her husband was cheating on her.  She reports 
that
this was making her feel quite depressed, but today, she finally
discovered glitter on some of her husbands clothes that 
suggested
that he was, in fact, cheating on her.  She confronted him when
he got home and she reports that he became upset at her and
called ___ to "get back at me and make everyone think that she 
is
crazy."  She adamantly denies that she would try to drown 
herself
in the bathtub.  She says that she hasn't felt suicidal at all
lately and identifies her children as protective factors.

She did not know the contact information for any of her family
members.  She said that her husband took her phone from her
before he called the police, so she cannot get the numbers she
needs from them.  She reports that she drank about a half a
bottle of wine before the episode and felt intoxicated on
presentation to the ED.  Denies any symptoms of withdrawal.

PSYCH ROS:
-Depression: Endorses sleep changes, anhedonia, decreased 
energy,
concentration changes, appetite changes without weight loss. 
Denies suicidal ideation, homicidal ideation.
-Mania: Denies any current or past symptoms of mania
-Psychosis: Denies any AVH, TI, TB, or IOR.

COLLATERAL INFORMATION:
Per EMS Report:
___ Y/O FEMALE FOUND AMBULATORY IN APARTMENT WITH HER HUSBAND 
WHO
REPORTS ___ WAS FOUND TRYING TO DROWNED HERSELF IN THE TUB. ___
ALSO SENT A TEXT 4 DAYS AGO STATING SHE WAS GOING TO KILL 
HERSELF
WITCH EMS SAW. ___ ADMITS TO SENDING THE TEXT BUT DENIES TRYING 
TO
HARM HERSELF AND STATES SHE WAS TAKING A BATH. ___ DENIES
SI/HI/HALLUCINATIONS AND DRUGS. ___ ADMITS TO 2 GLASSES OF WINE."

Attempts to reach the patient's husband on her cell phone
(___) have been unsuccessful. Patient is unable to
recall his phone number. Other numbers listed in OMR have been
disconnected.

 
Past Medical History:
HTN
 
Social History:
SUBSTANCE ABUSE HISTORY:
- Alcohol Use: Reports that she used to have about ___ glasses 
of
wine in a week, but now has been drinking between ___ bottle 
of
wine a day for the last few months.
- Tobacco History: Occasional cigarette use that varies.  
Lately,
has been smoking more.
- Illicit Substances: Denies any illicit substances.

FORENSIC HISTORY:
Arrests: Denies
Convictions and jail terms: Denies
 
SOCIAL HISTORY:
___
Family History:
Denies
 
Physical Exam:
Neuropsychiatric Examination:
*VS:  BP: 139/89   HR: 72    temp: 98.2   resp:  16   O2 sat:
100% RA
 Exam:
  Neurological:
     *Station and gait: normal station and gait
     *Tone and strength: moves all four extremities 
spontaneously
against gravity
      Movements: no adventitious movements noted
             

  Mental status: 
   *Appearance: ___ woman, wearing hospital gown 
and
wrap hat, appearing stated age, in no acute distress.
    Behavior: Cooperative with interview, makes good eye 
contact,
sits in chair with some motion of the knees
   *Mood and Affect: "a little agitated" / Appears slightly
annoyed/distressed but friendly
   *Thought process: Linear, goal-oriented
   *Thought Content: Denies SI/HI/AVH, thoughts oriented on
relationship with husband and infidelity
   *Judgment and Insight: Fair / Fair
   
  Cognitive:
     *Attention, *orientation, and executive function: Attentive
 to interview, oriented to context and history
     *Memory: Intact to history
     *Fund of knowledge: Appropriate; states ___ as a play
by ___, states current president is ___ 
___,
names ___, and Trump as candidates.
     *Speech: Regular rate, rhythm, volume, and prosody.
     *Language: Fluent ___

General physical exam:
Gen: NAD
HEENT: normocephalic atraumatic
___: RRR and S1S2
Abd: Soft NT ND +BS
Resp: CTA b/l
Extr: 2+ radial pulses b/l, warm and well perfused x4

 
Pertinent Results:
___ 10:50PM   ALT(SGPT)-17 AST(SGOT)-24
___ 10:50PM   ACETMNPHN-12
___ 06:40PM   GLUCOSE-79 UREA N-10 CREAT-0.8 SODIUM-143 
POTASSIUM-3.6 CHLORIDE-107 TOTAL CO2-21* ANION GAP-19
___ 06:40PM   ALT(SGPT)-19 AST(SGOT)-27 ALK PHOS-49 TOT 
BILI-0.7
___ 06:40PM   estGFR-Using this
___ 06:40PM   ALBUMIN-4.2
___ 06:40PM   ASA-NEG ___ ACETMNPHN-19 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:40PM   WBC-4.0 RBC-4.70 HGB-12.0 HCT-38.4 MCV-82 
MCH-25.5* MCHC-31.3* RDW-15.9* RDWSD-47.1*
___ 06:40PM   NEUTS-51.2 ___ MONOS-11.3 EOS-4.5 
BASOS-0.5 IM ___ AbsNeut-2.03 AbsLymp-1.28 AbsMono-0.45 
AbsEos-0.18 AbsBaso-0.02
___ 06:40PM   PLT COUNT-241
 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman with no specific
past psychiatric history who was admitted following her 
husband's
call to EMS following Ms. ___ alleged suicide attempt.  
She signed a CV and 3-day letter upon admission to unit.

On interview upon admission, Ms. ___ acknowledged that she 
has been more
stressed, more anxious, and with slightly worsened mood and 
sleep
over the last few months in context of conflict with her husband
over his alleged infidelity.  She also reported that she had
increased her frequency of drinking from just at social events 
to
daily, ___ bottle of wine per night, stated she was not
initially aware that she would become more intoxicated more
easily s/p her gastric bypass. Stated that this increased in 
ETOH
consumption escalated the conflict between her and her husband
and knows this was ill-advised.  Denied significant current or
past depressed mood, substantial anxiety, change in
appetite/energy level/motivation.  Reported she has continued to
go to work and socialize as usual, speaks with her adult 
children
every day, gets advice from her husband's uncle's girlfriend
about her marriage situation.  Consistently denied
depressed or anxious mood, SI/HI,  or AH/VH.  Reported
good appetite and good sleep.  Denied that she has ever been
suicidal, stated she has never even considered killing herself
because of her children.  Admitted that she and her husband sent
provocative text messages back and forth but reported that her
husband's texts were just as provocative as hers.  Reports her
husband had essentially stolen her phone from her and would not
give it back.  Consistently declined  to consider option of 
psychiatric medication, but ultimately did not provide history 
or presentation c/w depressive disorder; rather more appropriate 
dx is one of adjustment disorder in addition to escalating 
alcohol use, and as such, psychiatric medication was not 
strictly indicated.  Throughout her stay, Ms. ___ continued 
to appear bright and euthymic.  She attended all groups 
available, and found them helpful.  Reported that she had been 
speaking with her husband
and remained frustrated with him, reported ultimately that she 
had decided they
will separate and she would stay with her son post-d/c. 
Collateral info was obtained from Ms. ___ husband with her 
permission, and he reported feeling comfortable with her 
returning home, but would not provide Ms. ___ daughter's 
info, despite the fact that Ms. ___ had given permission 
for team to contact daughter for further collateral.  
Ultimately, pt was d/c'ed on ___ when her 3-day letter expired, 
given no compelling evidence that Ms. ___ was a threat to 
herself or to anybody else, as she consistently appeared bright, 
engaged, and with fair insight, and team observed no 
neurovegetative sx or other symptoms concerning for depression 
or other psychiatric disorders.

 
Medications on Admission:
HCTZ 25 mg po daily
 
Discharge Medications:
HCTZ 25 mg po daily
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
adjustment disorder with mixed disturbance of conduct and 
emotions

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for question of depression and 
suicidality.   You are now ready for discharge. 

- Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
- Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
- Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___